US08492395B2
To a stirred solution of (4-chloro-phenyl)-acetic acid (0.30 g, 1.8 mmol) in DMF (8 mL) in a 40° C. oil bath, was added 1,1′ carbonyldiimidazole (0.31 g, 1.9 mmol), and the mixture was stirred for one hour. Then 3-(6-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride (0.59 g, 1.7 mmol) was added, and the mixture was stirred for 15 minutes. The solvent was evaporated, and the residue was purified by flash column chromatography (Silica gel, methanol/methylene chloride 4%/96%) to give 2-(4-chloro-phenyl)-N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-6-ylmethyl]-acetamide as a white solid (550 mg, 70% yield); HPLC, Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 10/90 CH3CN/0.1% H3PO4, grad. to 95/5 in 5 min, kept 5 min, 6.00 min (98.7%); mp, 229.5-231.5° C.; 1HNMR (DMSO-d6) 2.15-2.21 (m, 1H, CHH), 2.57-2.89 (m, 6H, CHCH2, CH3), 3.50 (s, 2H, ArCH2), 4.37 (d, J=5 Hz, 2H, CH2NH), 5.26 (dd, J=6, 11 Hz, 1H, CH), 7.27-7.90 (m, 7H, Ar), 8.67 (t, J=5 Hz, 1H, CH2NH), 11.03 (s, 1H, NH); 13C NMR (DMSO-d6) δ 20.92, 23.40, 30.63, 41.39, 41.87, 56.53, 120.02, 123.99, 126.57, 128.13, 130.87, 131.09, 134.03, 135.21, 137.97, 145.81, 154.61, 160.38, 169.47, 169.85, 172.61. LCMS MH=453, 455; Anal Calcd For C23H21N4O4Cl: C, 61.00; H, 4.67; N, 12.37; Cl, 7.83. Found: C, 60.88; H, 4.60; N, 12.27; Cl, 7.89.

reactant | (4-chloro-phenyl)-acetic acid | 1.8 mmol, 0.30 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | 1,1′ carbonyldiimidazole | 1.9 mmol, 0.31 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-(6-aminomethyl-2-methyl-4-oxo-4H-quinazolin-3-yl)-piperidine-2,6-dione hydrogen chloride | 1.7 mmol, 0.59 g | Cl.NCC=1C=C2C(N(C(=NC2=CC1)C)C1C(NC(CC1)=O)=O)=O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-(4-chloro-phenyl)-N-[3-(2,6-dioxo-piperidin-3-yl)-2-methyl-4-oxo-3,4-dihydro-quinazolin-6-ylmethyl]-acetamide | 550 mg, 70% yield | ClC1=CC=C(C=C1)CC(=O)NCC=1C=C2C(N(C(=NC2=CC1)C)C1C(NC(CC1)=O)=O)=O | C23H21ClN4O4
